US04458075
2-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-1,2,3,4-tetrahydroisoquinoline hydrochloride
To 30 ml of dry dimethylformamide was added 2.13 g of 1,2,3,4-tetrahydroisoquinoline, 3.4 g of 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole, 8.0 g of sodium bicarbonate, and a crystal of potassium iodide. After stirring at 100° C. for two hrs, the mixture was evaporated to an oil. The oil was stirred with 100 of ml water for five mins and then extracted with ether. The ether extract was washed with water (2×), saturated sodium chloride solution and dried over anhydrous magnesium sulfate. After filtering, the solvent was evaporated to an oil. A 4.5 g-portion of the oil was dissolved in ether and treated with ethereal hydrogen chloride, and the resultant salt was recrystallized from ethyl acetate/methanol/ether to give 3.0 g (54%) of product, mp 174°-176° C.

reactant | 1,2,3,4-tetrahydroisoquinoline | 2.13 g | C1NCCC2=CC=CC=C12 | C9H11N
reactant | 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole | 3.4 g | ClCCCC1=NOC2=C1C=CC(=C2)F | C10H9ClFNO
reactant | sodium bicarbonate | 8.0 g | C([O-])(O)=O.[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-1,2,3,4-tetrahydroisoquinoline hydrochloride | 3.0 g, 54% | Cl.FC1=CC2=C(C(=NO2)CCCN2CC3=CC=CC=C3CC2)C=C1 | InChI=1S/C19H19FN2O.ClH/c20-16-7-8-17-18(21-23-19(17)12-16)6-3-10-22-11-9-14-4-1-2-5-15(14)13-22;/h1-2,4-5,7-8,12H,3,6,9-11,13H2;1H
